US06569860B2
To a solution of 2-phenyl-5-(5-phenyl-benzofuran-2-ylmethoxy-carbonylamino)-pyrimidine-4-carboxylic acid methyl ester (0.956. g, 1.99 mmol) in THF (20 mL), was added lithium hydroxide monohydrate (0.167 g, 3.99 mmol) in 4 ml of water. The mixture was stirred at 5° C. for 2 h, and 1N HCl was added to adjust the pH to 2. The solvents were removed in vacuo and the resulting suspension was filtered. Recrystallisation of the white crude solid gave 0.82 g of 2-phenyl-5-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-pyrimidine-4-carboxylic acid, mp: 184-185° C.

reactant | 2-phenyl-5-(5-phenyl-benzofuran-2-ylmethoxy-carbonylamino)-pyrimidine-4-carboxylic acid methyl ester | 1.99 mmol | COC(=O)C1=NC(=NC=C1NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C28H21N3O5
reactant | lithium hydroxide monohydrate | 3.99 mmol, 0.167 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 4 ml | O | H2O
product | 2-phenyl-5-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-pyrimidine-4-carboxylic acid | 0.82 g | C1(=CC=CC=C1)C1=NC=C(C(=N1)C(=O)O)NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2 | C27H19N3O5
